Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Taxol / lisinopril / Doxil
 
Attending: ___.
 
Chief Complaint:
Taxol Desensitization
 
Major Surgical or Invasive Procedure:
None this hospitalization.
 
History of Present Illness:
Ms. ___ is a ___ female with recurrent 
ovarian cancer (BRCA2+) who presents for taxol desensitization.

Patient was recently found to have disease recurrence with 
rising CA125 and finding of liver lesion with plan made to start 
carboplatin/doxil. On ___ she had an anaphylactic reaction to 
Doxil requiring hydrocortisone/benadryl/epinephrine with 
observation in the ER. Within minutes of Doxil infusing, she 
felt chest pain followed by severe chest/back pain with 
hypoxemia (sats down ___ on NRB) requiring epinephrine 
injection. Plan was changed to proceed with carboplatin/taxol 
given known tolerance of taxol desensitization. She was seen by 
Dr. ___ in Allergy ___ who recommended a 12-step/3 bag 
desensitization inpatient protocol. During prior 
desensitizations with taxol she has had chest pain and itching.

On arrival to the floor, patient reports feeling well. She notes 
some abdominal bloating. She denies fevers/chills, night sweats, 
headache, vision changes, dizziness/lightheadedness, 
weakness/numbness, shortness of breath, cough, hemoptysis, chest 
pain, palpitations, abdominal pain, nausea/vomiting, diarrhea, 
hematemesis, hematochezia/melena, dysuria, hematuria, and new 
rashes.
 
Past Medical History:
PAST ONCOLOGIC HISTORY:
- ___ Presented with abdominal bloating and work-up was 
consistent with ovarian cancer. 
- ___ optimal debulking surgery for stage IIIA ovarian 
cancer, grade 3 serous
- ___ BRCA2 mutation (___)
- ___ Completed IP chemotherapy x 6 cycles

PAST MEDICAL HISTORY:
- HTN
- L5-S1 disc herniation
- Sciatica
- Prepatellar bursitis
- ___ right breast biopsy benign
- History of SBOs
 
Social History:
___
Family History:
Father with pancreatic cancer. Paternal aunt with breast and 
ovarian cancers. Mother with melanoma. MGM with colon cancer. 
Maternal cousin with BRCA2+ breast cancer.
 
Physical Exam:
========================
Admission Physical Exam:
========================
VS: Temp 98.4, BP 122/96, Hr 69, RR 20, O2 sat 98% RA.
GENERAL: Pleasant woman, in no distress, lying in bed 
comfortably.
HEENT: Anicteric, PERLL, OP clear.
CARDIAC: RRR, normal s1/s2, no m/r/g.
LUNG: Appears in no respiratory distress, clear to auscultation 
bilaterally, no crackles, wheezes, or rhonchi.
ABD: Soft, non-tender, non-distended, normal bowel sounds.
EXT: Warm, well perfused, no lower extremity edema.
NEURO: A&Ox3, good attention and linear thought, CN II-XII 
intact. Strength full throughout. Sensation to light touch 
intact.
SKIN: No significant rashes.

========================
Discharge Physical Exam:
========================
VS: Afebrile, vitals stable.
Exam otherwise unchanged.
 
Pertinent Results:
===============
Admission Labs:
===============
___ 07:42AM BLOOD WBC-5.8 RBC-4.13 Hgb-11.7 Hct-36.6 MCV-89 
MCH-28.3 MCHC-32.0 RDW-13.6 RDWSD-44.3 Plt ___
___ 07:42AM BLOOD Neuts-56.8 ___ Monos-7.8 Eos-3.1 
Baso-0.5 Im ___ AbsNeut-3.28 AbsLymp-1.81 AbsMono-0.45 
AbsEos-0.18 AbsBaso-0.03
___ 07:42AM BLOOD Glucose-94 UreaN-12 Creat-0.9 Na-140 
K-4.6 Cl-101 HCO3-26 AnGap-13
___ 07:42AM BLOOD ALT-11 AST-18 AlkPhos-48 TotBili-0.4
___ 07:42AM BLOOD Calcium-9.3 Phos-4.4 Mg-1.9
 
Brief Hospital Course:
Ms. ___ is a ___ female with recurrent 
ovarian cancer (BRCA2+) who presents for taxol desensitization.

# Taxol Desensitization:
# Encounter for Antineoplastic Chemotherapy:
# Recurrent Ovarian Cancer:
# Secondary Neoplasm of Liver:
# Secondary Neoplasm of Lymph Nodes: Patient with recent 
anaphylactic reaction to doxil. She tolerated taxol 
desesnitization.

# Hypertension: Continued home valsartan.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LORazepam 0.5 mg PO Q6H:PRN nausea/vomiting/anxiety/insomnia
2. Ondansetron 8 mg PO Q8H:PRN nausea/vomiting
3. Prochlorperazine 10 mg PO Q6H:PRN nausea/vomiting
4. Valsartan 40 mg PO DAILY
5. Multivitamins 1 TAB PO DAILY
 
Discharge Medications:
1.  LORazepam 0.5 mg PO Q6H:PRN nausea/vomiting/anxiety/insomnia
2.  Multivitamins 1 TAB PO DAILY
3.  Ondansetron 8 mg PO Q8H:PRN nausea/vomiting
4.  Prochlorperazine 10 mg PO Q6H:PRN nausea/vomiting
5.  Valsartan 40 mg PO DAILY
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
- Taxol Desensitization
- Encounter for Antineoplastic Chemotherapy
- Recurrent Ovarian Cancer
- Secondary Neoplasm of Liver
- Secondary Neoplasm of Lymph Nodes
- Hypertension
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at the ___ 
___. You were admitted to the hospital for 
your taxol desensitization which you tolerated well. You will 
follow-up as previously scheduled.

All the best,
Your ___ Team
 
Followup Instructions:
___